US05130309
3-[2-(4-Aminophenoxy)ethyl]-1-(1-phenylethyl)azetidine
The title compound is prepared by catalytic reduction at room temperature in the presence of platinum on carbon catalyst in ethanol solution using standard laboratory procedures from 3-[2-(4-nitrophenoxy)ethyl]-1-(1-phenylethyl)azetidine.

reactant | 3-[2-(4-nitrophenoxy)ethyl]-1-(1-phenylethyl)azetidine | [N+](=O)([O-])C1=CC=C(OCCC2CN(C2)C(C)C2=CC=CC=C2)C=C1 | C19H22N2O3
catalyst | platinum on carbon | [Pt] | Pt
solvent | ethanol | C(C)O | C2H6O
product | 3-[2-(4-Aminophenoxy)ethyl]-1-(1-phenylethyl)azetidine | NC1=CC=C(OCCC2CN(C2)C(C)C2=CC=CC=C2)C=C1 | C19H24N2O
